US05556860
Synthesis of 3-[1-(3-thienylmethyl)piperidin-4-yl]-4-phenyl-2-oxo -1,2,3,4-tetrahydropyrido[4,3-d]pyrimidine
To a solution of 500 mg (1.62 mmol) of 3-(piperidin-4-yl)-4-phenyl-2-oxo-1,2,3,4-tetrahydropyrido[4,3-d]pyrimidine in 30 mL of methanol were added 1,200 mg of 10% HCl/ethanol solution, 727 mg (6.48 mmol) of 3-thiophenecarboxaldehyde and 407 mg (6.48 mmol) of sodium cyanoborohydride under ice-cooling, and the mixture was stirred for 10 hours at ambient temperature. Then, the reaction mixture was concentrated in vacuo, and water was added to the residue. The mixture was adjusted to pH 10 and extracted with chloroform. The organic layer separated was dried on potassium carbonate, and then concentrated in vacuo. The residue was purified by means of column chromatography (silica gel, 1:9 methanol:chloroform) to give 550 mg (1.36 mmol) of the title compound.

reactant | 3-(piperidin-4-yl)-4-phenyl-2-oxo-1,2,3,4-tetrahydropyrido[4,3-d]pyrimidine | 1.62 mmol, 500 mg | N1CCC(CC1)N1C(NC2=C(C1C1=CC=CC=C1)C=NC=C2)=O | C18H20N4O
reactant | HCl ethanol | 1,200 mg | Cl.C(C)O
reactant | 3-thiophenecarboxaldehyde | 6.48 mmol, 727 mg | S1C=C(C=C1)C=O | C5H4OS
reactant | sodium cyanoborohydride | 6.48 mmol, 407 mg | C(#N)[BH3-].[Na+]
solvent | methanol | 30 mL | CO | CH4O
product | 3-[1-(3-thienylmethyl)piperidin-4-yl]-4-phenyl-2-oxo -1,2,3,4-tetrahydropyrido[4,3-d]pyrimidine | 1.36 mmol, 550 mg | S1C=C(C=C1)CN1CCC(CC1)N1C(NC2=C(C1C1=CC=CC=C1)C=NC=C2)=O | C23H24N4OS
